US08802704B2
Step 2: tert-butyl N-(3-cyanobenzyl)-N-isopropyl-beta-alaninate
A mixture of 3-[(isopropylamino)methyl]benzonitrile (5.7 g, 32.7 mmol), tert-butyl acrylate (4.78 ml, 32.7 mmol) and DBU (5.0 ml, 32.7 mmol) was heated neat at 80° C. for 24 hours. The reaction mixture was diluted with water and extracted with DCM. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. After purification by chromatography (silica, pet ether/EtOAc), the title compound was obtained as a colorless oil. 1H NMR (DMSO-d6, 400 MHz) δ 7.73 (s, 1H,), 7.67 (d, J=7.7 Hz, 1H), 7.63 (d, J=7.8 Hz, 1H), 7.49 (t, J=7.7 Hz, 1H), 3.56 (s, 2H), 2.75 (m, 1H), 2.62 (t, J=6.5 Hz, 2H), 2.25 (t, J=6.4 Hz, 2H), 1.39 (s, 9H), 0.83 (d, J=8.8 Hz, 6H).

reactant | 3-[(isopropylamino)methyl]benzonitrile | 32.7 mmol, 5.7 g | C(C)(C)NCC=1C=C(C#N)C=CC1 | C11H14N2
reactant | tert-butyl acrylate | 32.7 mmol, 4.78 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | DBU | 32.7 mmol, 5.0 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | water | O | H2O
product | tert-butyl N-(3-cyanobenzyl)-N-isopropyl-beta-alaninate | C(#N)C=1C=C(CN(CCC(=O)OC(C)(C)C)C(C)C)C=CC1 | C18H26N2O2
